Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefadroxil
 
Attending: ___.
 
Chief Complaint:
left knee pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ YOF with provoked left leg DVT discovered ___ on Xarelto 
presents with worsening leg/knee pain. 

Patient sustained severe left ankle sprain late ___ with 
inability to bear weight and subsequent prolonged immobility. 
Initial evaluation included negative Xrays. Patient developed 
significant pain, redness and swelling of left lower leg and 
ankle. Interval evaluation with Venous Doppler on ___ was 
negative for DVT. Given lack of improvement, patient presented 
for reevaluation. CT ___ showed edema without fracture. MRI 
___ showed severe tendinosis without fracture. Presented to her 
PCP ___ with marked swelling of the leg and ankle and foot. She 
was started on Tramadol 50mg Q6H PRN in addition to her reported 
use of 600mg ibuprofen Q8H. An U/S was obtained on ___ which 
revealed extensive DVT and she was referred to ED for initiation 
of anticoagulation and consideration of intervention. Vascular 
surgery noted risk factors of obesity, estrogen based 
contraception (Nuva ring) and grandmother with DVT but 
recommended no intervention. She was advised to keep leg 
elevated and wrapped with an ACE bandage to improve swelling. 
She was initiated on Rivaroxaban 15mg BID for 21 days followed 
by 20mg daily and discharged home. On subsequent follow up, she 
was planned to continue with a  3 month course of 
anticoagulation for a provoked DVT, advised to have Nuva ring 
removed and set up with orthopedic follow up for ankle sprain.

She represented to the ED with continued swelling and pain of 
the left leg with continued difficulty with mobility due to 
pain.  
 
In the ED, initial VS were 97.4, 126/60, 90, 18, 100%/RA  
 
Exam notable for well appearing, RRR, CTAB, left leg: 2+ DP and 
___ pulses, sensation intact, unable to range joints ___ pain, no 
erythema
 
Labs showed WBC 7.7, H/H 14.8/45.1% Plt 258, Na 136, CO2 24, 
BUN/Cr ___ Glu 94, INR 1.5, clean U/A

Imaging: CTA Chest mildly limited by poor bolus timing and 
respiratory motion with probable left lower lobe segmental 
pulmonary emboli without evidence of right heart strain or 
pulmonary infarction.

Received Tramadol 50mg, Rivaroxaban 15mg, Acetaminophen 650 mg

Transfer VS were 98.4, 106/58, 85, 16, 99% RA
 
Decision was made to admit to medicine for further management of 
PE.
 
On arrival to the floor, patient reports continued immobility 
due to lateral ankle pain and significant mid calf pain on the 
left. 

She does report one self limited episode of sharp non-radiating 
left sided chest pain that lasted 30 mins that worsened with 
exertion and was relieved with rest. No associated SOB, light 
headedness, nausea, vomiting, sweating or change with position. 
Also endorses epigastric pain and nausea 30 minutes after taking 
each dose of Xarelto. No associated change in BMs, denies black 
or blood stool. Denies hematuria or dysuria. Denies falls or any 
other injury. She does report occasional left foot numbness.   
She reports the NuvaRing has been removed.

ROS: 10-point ROS negative except as noted above in HPI

 
Past Medical History:
Seasonal Allergies
H/o frequent urinary tract infections treated in past with 
nitrofurantoin and Bactrim.
 
Social History:
___
Family History:
Mother    Living    ___  HYPERTENSION
Father    Living    ___  HYPERTENSION
Sister    Living    ___  MYOCARDIAL INFARCTION, occurred at age 
___.  Hypothyroidism.
Sister    Living    ___  DIABETES TYPE I, HYPOTHYROIDISM  
Grandmother with provoked DVT after fall with prolonged 
immobility. 
Paternal uncle with PE in setting of active gastric cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS: 98.6, 110/55, 82, 18, 98% RA  
GENERAL: Well appearing, NAD
HEENT: anicteric sclera, PERRL, EOMI, MOM, OP clear
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, normal S1/S2, no M/R/G
LUNG: NLB on RA, CTAB
ABDOMEN: soft, NT, no epigastric tenderness, ND, no HSM, no 
rebound/guarding, NABS
EXTREMITIES: WWP, left foot with slightly darker colored skin to 
level of ankle, no edema, symmetric lower leg girth, significant 
point tenderness at left mid calf, significant pain with passive 
ROM left ankle worst with  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox4, CN II-XII intact, SILT BUE and BLE, ___ strength 
BUE and RLE, pain limited ranging and dorsiflexion/extension, 
ankle flexion/extension and to a lesser extent knee 
flexion/extension. 
SKIN: warm and well perfused, no excoriations or lesions
 
DISCHARGE PHYSICAL EXAM:
============================
VS: 97.7, 104/52, 77, 18, 99% RA  
Wt: 86.7 kg
GENERAL: Well appearing, NAD
HEENT: anicteric sclera, EOMI, MOM, OP clear
NECK: nontender supple neck, no JVD  
CARDIAC: RRR, normal S1/S2, no M/R/G
LUNG: NLB on RA, CTAB
ABDOMEN: soft, NT, no epigastric tenderness, ND, no 
rebound/guarding, NABS
EXTREMITIES: WWP, left foot with slightly darker colored skin to 
level of ankle, no edema, symmetric lower leg girth, significant 
point tenderness at left mid calf, significant pain with passive 
ROM left ankle worst in medial aspect.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox4, SILT BUE and BLE, ___ strength BUE and RLE, pain 
limited ranging and dorsiflexion/extension, ankle 
flexion/extension and to a lesser extent knee flexion/extension. 

SKIN: warm and well perfused, no excoriations or lesions
 
Pertinent Results:
ADMISSION
==============
___ 09:41AM BLOOD WBC-7.7 RBC-5.22* Hgb-14.8 Hct-45.1* 
MCV-86 MCH-28.4 MCHC-32.8 RDW-12.8 RDWSD-39.9 Plt ___
___ 09:41AM BLOOD Neuts-65.8 ___ Monos-6.5 Eos-2.1 
Baso-0.5 Im ___ AbsNeut-5.03 AbsLymp-1.91 AbsMono-0.50 
AbsEos-0.16 AbsBaso-0.04
___ 09:41AM BLOOD ___ PTT-36.2 ___
___ 09:41AM BLOOD Glucose-94 UreaN-7 Creat-0.7 Na-136 
K-5.7* Cl-101 HCO3-24 AnGap-17
___ 10:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 10:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:00AM URINE UCG-NEGATIVE
 
PERTINENT STUDIES
==================== 
IMAGING/REPORTS:

___ CTA CHEST
IMPRESSION: 
1. Study is mildly limited by poor bolus timing and respiratory 
motion. 
2. Probable left lower lobe segmental pulmonary emboli. 
3. No evidence of right heart strain or pulmonary infarction. 
  
DISCHARGE LABS
===================
___ 06:12AM BLOOD WBC-8.6 RBC-5.03 Hgb-14.2 Hct-43.4 MCV-86 
MCH-28.2 MCHC-32.7 RDW-12.8 RDWSD-39.8 Plt ___
___ 06:12AM BLOOD ___ PTT-37.1* ___
___ 06:12AM BLOOD Glucose-94 UreaN-8 Creat-0.7 Na-139 K-3.9 
Cl-102 HCO3-27 AnGap-14
___ 06:12AM BLOOD ALT-13 AST-15 LD(LDH)-159 AlkPhos-105 
TotBili-0.5
___ 06:12AM BLOOD Albumin-4.0 Calcium-9.5 Phos-5.6* Mg-1.___ YOF with ankle injury late ___, complicated by 
provoked left leg DVT discovered ___, started on Xarelto the 
same day, presents with worsening leg/knee pain, found to have 
non-hemodynamically compromising left lower lobe segmental and 
sub-segmental pulmonary embolism. No evidence of right heart 
strain on CTA or EKG. No evidence of vascular compromise of the 
distal extremity. No indication for thrombolytic therapy. Given 
that it is impossible to determine the time of onset of her PE 
relative to her DVT, it is most likely that her PE was present 
prior to initiation of rivaroxaban and does not represent NOAC 
failure.  Even if the PE developed after initiation of NOAC, the 
NOAC had just been initiated and the PE would be a natural 
development of the DVT.  Further discussions regarding 
anticoagulation on long term anticoagulation deferred to PCP. 
DVT provoked by ankle injury without fracture, prolonged 
immobility, estrogen based contraception and obesity.  FH of 
provoked DVT only.  Patient evaluated by physical therapy and 
cleared to go home with outpatient physical therapy. Of note, 
significantly impaired left dorsiflexion, likely exacerbated by 
significant hesitancy due to pain on active and passive range of 
motion. Patient has follow up scheduled with PCP and 
___. Recommend OB/GYN appointment for alternate 
non-hormone based contraception.

TRANSITIONAL ISSUES
===================
- Further evaluation of her left foot drop and ankle sprain 
deferred to outpatient orthopedics; follow up visit scheduled 
___
- no change in anticoagulation regimen
 - continue rivaroxaban 15mg BID first 21 days ___
 - continue rivaroxaban 20mg for at least 3 months
 - patient has prescriptions for these medications prior to 
admission
- recommend maximizing mobility with crutches for short 
distances at least 3 times per day and elevation with 
intermittent ice when resting
- recommend OB/GYN appointment for transition to non-hormone 
based contraception
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO BID 
2. TraMADol 50 mg PO Q6H:PRN pain 
3. triamcinolone acetonide 0.1 % topical BID 

 
Discharge Medications:
1. Rivaroxaban 15 mg PO BID 
2. TraMADol 50 mg PO Q6H:PRN pain 
3. triamcinolone acetonide 0.1 % topical BID 
4. Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*180 Tablet Refills:*0
5. Tizanidine 4 mg PO TID:PRN pain 
RX *tizanidine 4 mg 1 capsule(s) by mouth three times a day Disp 
#*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Pulmonary embolism 
# Deep Vein Thrombosis
# Left ankle sprain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for monitoring after a clot was found 
in your lungs (pulmonary embolism). Fortunately, you had already 
been started on a blood thinner (rivaroxaban) on ___ when the 
blood clot in your left leg (DVT) was found. 

While it is impossible to tell when you developed the blood clot 
in your lung, it is likely that you had it before starting the 
blood thinner. This clot is very low risk and is not affecting 
your heart of lung function. You are also protected from clot 
growth by the blood thinner. 

It is important that you take this medication as directed:
Use twice a day for the first 21 days (starting ___ then your 
prescription will be changed to a different once a day dose for 
at least 3 months.

Your PCP may make changes to this schedule. Please keep your 
follow up appointment with your PCP as below. You should ensure 
that you have your nuva-ring removed and consider other options 
for birth control. Please take all of your medications as 
prescribed.

You should follow up with the Orthopedics service for help with 
your ankle sprain. Please keep your scheduled appointment as 
below.
 
Please bring this worksheet to all your appointments.
 
If you develop sudden chest pain, shortness of breath, heart 
racing, light headedness, dizziness, sharply increased leg 
swelling, pain, fevers or generally feel unwell, please contact 
your doctor immediately or return to the hospital.
 
We wish you the best in health,

Your ___ team
 
Followup Instructions:
___